US06307047B1
2-(tert-Butyl)-4,5-dichloro-3(2H)-pyridazinone
A solution of mucochloric acid (33.8 g, 200 mmol) and tert.-butylhydrazine hydrochloride (24.9 g, 200 mmol) in methanol (400 mL) was stirred at reflux overnight. Methanol was removed in vacuo and the residue was partitioned between ether and water. The organic layer was dried over MgSO4 and filtered. The filtrate was concentrated in vacuo and the residue was purified by column chromatography (silica gel, 100% hexanes). Product-containing fractions were combined and the title compound was crystallized from ether/hexanes (yield: 10.0 g, 22.6%). mp 63-64° C. 1H NMR (300 MHz, CDCl3) δ 1.65 (s, 9H), 7.73 (s, 1H). MS (DCI/NH3) m/z 221 (M+H)+, 238 (M+NH4)+.

reactant | mucochloric acid | 200 mmol, 33.8 g | C(/C(/Cl)=C(/Cl)\C=O)(=O)O | C4H2Cl2O3
reactant | tert.-butylhydrazine hydrochloride | 200 mmol, 24.9 g | Cl.C(C)(C)(C)NN
solvent | methanol | 400 mL | CO | CH4O
product | 2-(tert-Butyl)-4,5-dichloro-3(2H)-pyridazinone | C(C)(C)(C)N1N=CC(=C(C1=O)Cl)Cl | C8H10Cl2N2O
